### PR TITLE
[Merged by Bors] - refactor: replace Bitvec with Std.BitVec

### PR DESCRIPTION
**Pull request by mhk119**
re-adding definitions and theorems about bitvectors that mathlib has for `Bitvec` to the new `Std.BitVec` type, and getting rid of the former.

In std, the choice was made to define ult (unsigned less than) and related comparisons as `Bool`-valued, where the corresponding defs for `Bitvec` in mathlib are `Prop`-valued. Std does not have definitions for the respective greater-equal or greater-than comparisons, so we add those here, but we choose to be consistent with std and make them `Bool`-valued as well, breaking with the old API. 

---

- [x] depends on: #8598

EDIT (alexkeizer): 
Since opening this PR, substantial parts of the proposed refactor have been upstreamed to std.
This PR has thus changed its goal from:

> Redefine `BitVec w` as `Fin (2^w)` instead of `Vector Bool w` because the `Fin` representation is computationally more efficient and allows users to reuse existing theorems on `Fin` or `Nat` easily.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by alexkeizer** [comment]
@eric-wieser could you clarify why you labelled this after-port?

A [search](https://github.com/search?q=repo%3Aleanprover-community%2Fmathlib%20bitvec&type=code) of mathlib3 shows that the only downstream dependent file (control.random) is already ported, so there should be no problems with changing the representation.

**Comment by eric-wieser** [comment]
"after-port" means "this might cause trouble for downstream projects". At any rate, the "port-complete" tag should be made in the next few days once we finish the `align_import` stuff.

File: Mathlib/Data/Bitvec/Defs.lean [hunk 1]
```diff
@@ -1,355 +1,239 @@
...
+def bbT (bs : List Bool) : BitVec bs.length :=
+  ⟨ofBits (λ i => bs[i]!) 0 bs.length, @ofBits_lt _ (bs.length)⟩
 
-/-! ### Miscellaneous instances -/
 
+/-! ### Equivalence between bitwise and BitVec operations -/
 
-private def repr {n : Nat} : Bitvec n → String
-  | ⟨bs, _⟩ => "0b" ++ (bs.map fun b : Bool => if b then '1' else '0').asString
+theorem BV_add {x y : BitVec w}: bitadd x.val y.val w = (x + y).val := by
```
Comment (alexkeizer) [inline Mathlib/Data/Bitvec/Defs.lean:208]: I'm not 100% sure we want to have `bitadd` and related definitions on `Nat`; it seems to overlap quite a bit with the `Fin n -> Bool` alternative representation that was discussed on Zulip.

I would suggest limiting this PR to just the basic definitions on `Bitvec`tors, and removing all the extra definitions from `Nat.Bitwise`.

File: Mathlib/Data/Bitvec/Defs.lean [hunk 2]
```diff
@@ -1,355 +1,239 @@
...
-/-! ### Conversion to `nat` and `int` -/
+instance : Inhabited (BitVec w) := ⟨BitVec.zero w⟩
 
+instance : OfNat (BitVec w) (nat_lit 0) :=
+  ⟨BitVec.zero w⟩
 
-section Conversion
+-- We inherit `Fin` implementations when fast but write mod/div
+-- ourselves to avoid the extra modulo operation.
+protected def add (x y : BitVec w) : BitVec w := Fin.add x y
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Defs.lean:50]: I don't think there's anything interesting to read here, so the whitespace-less version seems fine to me

File: Mathlib/Data/Bitvec/Defs.lean [hunk 3]
```diff
@@ -1,355 +1,239 @@
...
+protected def mod (x y : BitVec w) : BitVec w :=
+  ⟨x.val % y.val, Nat.lt_of_le_of_lt (Nat.mod_le _ _) x.isLt⟩
+protected def div (x y : BitVec w) : BitVec w :=
+  ⟨x.val / y.val, Nat.lt_of_le_of_lt (Nat.div_le_self _ _) x.isLt⟩
+protected def lt (x y : BitVec w) : Bool :=
+  x.val < y.val
+protected def le (x y : BitVec w) : Bool :=
+  x.val ≤ y.val
+
+instance : Add (BitVec w) := ⟨BitVec.add⟩
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Defs.lean:63]: `instance : Ring (BitVec w) := inferInstanceAs (Ring(Fin _))` should be enough to replace all of them.

[the remark this answers is not in the document]
Comment (mhk119) [reply Mathlib/Data/Bitvec/Defs.lean]: It said failed to synthesize instance `Ring (Fin (2 ^ w))`

[the remark this answers is not in the document]
Comment (alexkeizer) [reply Mathlib/Data/Bitvec/Defs.lean]: Try to import `Mathlib.Data.ZMod.Defs`?

File: Mathlib/Init/Data/Nat/Bitwise.lean [hunk 4]
```diff
@@ -221,6 +227,11 @@ theorem shiftr_zero : ∀ n, shiftr 0 n = 0 := by
     rw [shiftr, div2, IH]
     rfl
 
+theorem shiftRight_eq_shiftr: n >>> m = Nat.shiftr n m := by
+  simp only [HShiftRight.hShiftRight, ShiftRight.shiftRight]
+  induction' m with m hm generalizing n
+  <;> simp [Nat.shiftr, Nat.shiftRight, Nat.div2_val, *]
```
Comment (eric-wieser) [inline Mathlib/Init/Data/Nat/Bitwise.lean:233]: This looks to me like an indication that we should just delete `shiftr`, we don't need two ways to spell the same function. Can you make a separate PR to do that (and the same for `shiftLeft`?

Comment (mhk119) [reply Mathlib/Init/Data/Nat/Bitwise.lean:230]: Sure!

File: Mathlib/Data/Bitvec/Defs.lean (hunk 1 above)
Comment (mhk119) [reply Mathlib/Data/Bitvec/Defs.lean]: Ok, I made that change. Now everything included is just necessary for definitions on ```BitVec```.

File: Mathlib/Init/Data/Nat/Bitwise.lean (hunk 4 above)
Comment (mhk119) [reply Mathlib/Init/Data/Nat/Bitwise.lean:227]: Ok [https://github.com/leanprover-community/mathlib4/pull/6356](here) it is.

**Comment by alexkeizer** [comment]
@mhk119 I'm curious what the status of this PR is?
There was some back and forth between @eric-wieser's review and your code changes. Have all the review concerns now been addressed, or have there been significant other changes so that another review is needed?

File: Mathlib/Data/Nat/Bitwise.lean [hunk 5]
```diff
@@ -1,17 +1,22 @@
 /-
 Copyright (c) 2020 Markus Himmel. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Markus Himmel
+Authors: Markus Himmel, Harun Khan, Abdalrhman M Mohamed
+
+! This file was ported from Lean 3 source module data.nat.bitwise
+! leanprover-community/mathlib commit 6afc9b06856ad973f6a2619e3e8a0a8d537a58f2
+! Please do not edit these lines, except to modify the commit id
+! if you have ported upstream changes.
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:9]: This is the old header format which we no longer use

File: Mathlib/Data/Bitvec/Defs.lean [hunk 6]
```diff
@@ -1,339 +1,178 @@
 /-
-Copyright (c) 2015 Joe Hendrix. All rights reserved.
+Copyright (c) 2022 by the authors listed in the file AUTHORS and their
+institutional affiliations. All rights reserved.
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:3]: What happened here?

**Comment by eric-wieser** [comment]
Please merge master

File: Mathlib/Init/Data/Nat/Bitwise.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Init/Data/Nat/Bitwise.lean:227]: This can now be deleted.

File: Mathlib/Data/Bool/Basic.lean [hunk 7]
```diff
@@ -372,13 +375,15 @@ def toNat (b : Bool) : Nat :=
...
+lemma toNat_le_one (b: Bool) : b.toNat ≤ 1 := by cases' b <;> simp
+
 /-- convert a `ℕ` to a `Bool`, `0 -> false`, everything else -> `true` -/
 def ofNat (n : Nat) : Bool :=
   decide (n ≠ 0)
 #align bool.of_nat Bool.ofNat
 
 theorem ofNat_le_ofNat {n m : Nat} (h : n ≤ m) : ofNat n ≤ ofNat m := by
-  simp only [ofNat, ne_eq, _root_.decide_not]
+  simp only [ofNat, ne_eq, _root_.decide_not];
```
Comment (eric-wieser) [inline Mathlib/Data/Bool/Basic.lean:386]: Can you undo the new semicolons in this file?

File: Mathlib/Data/Bool/Basic.lean [hunk 8]
```diff
@@ -2,13 +2,16 @@
...
+! This file was ported from Lean 3 source module data.bool.basic
+! leanprover-community/mathlib commit c4658a649d216f57e99621708b09dcb3dcccbd23
+! Please do not edit these lines, except to modify the commit id
+! if you have ported upstream changes.
 -/
 import Mathlib.Init.Data.Bool.Lemmas
 import Mathlib.Init.Data.Nat.Lemmas
 import Mathlib.Init.Function
 
-#align_import data.bool.basic from "leanprover-community/mathlib"@"c4658a649d216f57e99621708b09dcb3dcccbd23"
```
Comment (eric-wieser) [inline Mathlib/Data/Bool/Basic.lean:10]: Please don't convert these to old headers like this; I would guess you did a bad merge at some point?

Comment (mhk119) [reply Mathlib/Data/Bool/Basic.lean:10]: Yeah. I think that's due to some merge.

**Comment by mhk119** [comment]
> @mhk119 I'm curious what the status of this PR is? There was some back and forth between @eric-wieser's review and your code changes. Have all the review concerns now been addressed, or have there been significant other changes so that another review is needed?

Yes, we just PR'ed [6356](https://github.com/leanprover-community/mathlib4/pull/6356) which means we can now continue working on the new changes.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 9]
```diff
@@ -171,6 +231,52 @@ theorem bitwise'_comm {f : Bool → Bool → Bool} (hf : ∀ b b', f b b' = f b'
     _ = swap (bitwise' f) := bitwise'_swap hf'
 #align nat.bitwise_comm Nat.bitwise'_comm
 
+lemma bitwise_eq_bitwise' (f: Bool → Bool → Bool ) (h: f false false = false) :
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:234]: Did you have a counterexample that demonstrated why we need `h`? This was discussed on Zulip, right?

File: Mathlib/Data/Bool/Basic.lean (hunk 7 above)
Comment (mhk119) [reply Mathlib/Data/Bool/Basic.lean]: Just one semicolon?

File: Mathlib/Data/Nat/Bitwise.lean (hunk 9 above)
Comment (mhk119) [reply Mathlib/Data/Nat/Bitwise.lean]: Yes. From what I understood, we don't need ```h```. However, without it, it's hard to prove...

File: Mathlib/Init/Data/Nat/Bitwise.lean
Comment (eric-wieser) [inline Mathlib/Init/Data/Nat/Bitwise.lean:1]: All the changes to this file look accidental to me.

File: Mathlib/Data/Bool/Basic.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/Data/Bool/Basic.lean:10]: I've unresolved this because the offending change is still here.

File: Mathlib/Data/Nat/Bitwise.lean (hunk 9 above)
Comment (eric-wieser) [reply Mathlib/Data/Nat/Bitwise.lean]: I think we should:
* Prove that they are equal
* Remove one of them, unless there's a good reason to have both definitions.

File: Mathlib/Data/Bool/Basic.lean (hunk 8 above)
Comment (mhk119) [reply Mathlib/Data/Bool/Basic.lean:10]: I see this header is also in master.

File: Mathlib/Init/Data/Nat/Bitwise.lean
Comment (eric-wieser) [reply Mathlib/Init/Data/Nat/Bitwise.lean:1]: This comment still applies, since the file still has changes in the PR

File: Mathlib/Data/Bool/Basic.lean (hunk 8 above)
Comment (mhk119) [reply Mathlib/Data/Bool/Basic.lean:10]: I see the old header in this file in the master branch 🤔.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 10]
```diff
@@ -1,17 +1,17 @@
...
 import Lean.Elab.Tactic
 import Mathlib.Data.List.Basic
+import Mathlib.Data.Bool.Basic
+import Mathlib.Data.Nat.ModEq
 import Mathlib.Data.Nat.Bits
 import Mathlib.Data.Nat.Size
 import Mathlib.Data.Nat.Order.Lemmas
 import Mathlib.Tactic.Linarith
 
-#align_import data.nat.bitwise from "leanprover-community/mathlib"@"6afc9b06856ad973f6a2619e3e8a0a8d537a58f2"
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:13]: Accidental deletion?

File: Mathlib/Init/Data/Nat/Bitwise.lean [hunk 11]
```diff
@@ -180,21 +180,21 @@ theorem bit_zero : bit false 0 = 0 :=
   rfl
 #align nat.bit_zero Nat.bit_zero
 
-/--`shiftl' b m n` performs a left shift of `m` `n` times
+/--`shiftLeft' b m n` performs a left shift of `m` `n` times
  and adds the bit `b` as the least significant bit each time.
  Returns the corresponding natural number-/
-def shiftl' (b : Bool) (m : ℕ) : ℕ → ℕ
+def shiftLeft' (b : Bool) (m : ℕ) : ℕ → ℕ
```
Comment (eric-wieser) [inline Mathlib/Init/Data/Nat/Bitwise.lean:186]: Can you merge master? I already did this in #6788

File: Mathlib/Data/Nat/Bitwise.lean (hunk 10 above)
Comment (tobiasgrosser) [reply Mathlib/Data/Nat/Bitwise.lean:13]: Is this the only remaining issue? Or is there sth else to be done in this PR?

Comment (eric-wieser) [reply Mathlib/Data/Nat/Bitwise.lean:13]: I would prefer to see a separate PR that addresses https://github.com/leanprover-community/mathlib4/pull/5920#discussion_r1310496092 first; though maybe another reviewer can give a second opinion.

**Comment by eric-wieser** [comment]
Sorry for the rather piecewise reviews.

This is quite a big change overall; can you write a PR description that summarizes the change and explains why the new definition is better than the old definition?

File: Mathlib/Data/Bitvec/Defs.lean [hunk 12]
```diff
@@ -1,339 +1,189 @@
...
-  ⟨Bitvec.mul⟩
+/-- The bitvector `n mod 2^w`. -/
+protected def ofNat (w : Nat) (n : Nat) : BitVec w :=
+  Fin.ofNat' n (Nat.two_pow_pos w)
 
-end Arith
+instance : Inhabited (BitVec w) := ⟨BitVec.zero w⟩
 
-/-! ### Comparison operators -/
+instance : OfNat (BitVec w) (nat_lit 0) :=
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:44]: I think you should be using the `Zero` typeclass here.

File: Mathlib/Data/Nat/Bitwise.lean (hunk 9 above)
Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean]: I've been trying to prove this lemma without `h`, but it is indeed quite hard.

Both `bitwise` and `bitwise'` already exist in master, and a decent number of existing `bitwise'` theorems carry a similar assumption, so I'd argue that this current PR does not worsen the current status quo and I don't think we should block it on this issue.

(For future reference: the zulip thread mentioned is: https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/Merging.20bitwise.20and.20bitwise')

Comment (mhk119) [reply Mathlib/Data/Nat/Bitwise.lean]: Yes, I'm trying to prove this too and it is indeed quite challenging.

Comment (ChrisHughes24) [reply Mathlib/Data/Nat/Bitwise.lean]: Can I make the following suggestions for how to prove it. The issue seems to boil down to the fact that in a sense, `binaryRec` defines the case `n=0` twice, because `bit false 0 = 0`.

I think there should be a version of `binaryRec_eq` with the different hypothesis `n = 0 -> b = true`

```
theorem binaryRec_eq' {C : Nat → Sort u} {z : C 0} {f : ∀ b n, C n → C (bit b n)}
    (b n) (hbn : n = 0 → b = true) : binaryRec z f (bit b n) = f b n (binaryRec z f n)
```

Then the theorem `bitwise'_bit` can be stated as 
```
theorem bitwise'_bit' {f : Bool → Bool → Bool} (a m b n) 
    (ham : m = 0 → a = true) (hbn : n = 0 → b = true) :
    bitwise' f (bit a m) (bit b n) = bit (f a b) (bitwise' f m n) :=
```
And theorems could even be proven with a stronger version of `binaryRec`.
```
def binaryRec' {C : Nat → Sort u} (z : C 0) (f : ∀ b n, (n = 0 → b = true) → C n → C (bit b n)) : ∀ n, C n :=
```

Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean]: Thanks! It turns out `Nat.binaryRec_eq'` and `binaryRec'` already exist in `Data.Nat.Bits`. With the former, I finished and pushed a proof of `bitwise_eq_bitwise'` that doesn't need the extra assumption

**Comment by alexkeizer** [comment]
> Sorry for the rather piecewise reviews.
> 
> This is quite a big change overall; can you write a PR description that summarizes the change and explains why the new definition is better than the old definition?

For future reference: this refactor was also discussed in a [Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Proposed.20refactor.20of.20Bitvec)

**Comment by alexkeizer** [comment]
@mhk119 I think all the comments raised in the review have now been addressed, right? You might want to change the label from `awaiting-author` to `awaiting-review`

File: Mathlib/Data/Nat/Bitwise.lean (hunk 10 above)
Comment (eric-wieser) [reply Mathlib/Data/Nat/Bitwise.lean:13]: I've marked this unresolved again because this line is still deleted and shouldn't be.

Comment (tobiasgrosser) [reply Mathlib/Data/Nat/Bitwise.lean]: This has now been reverted.

**Comment by tobiasgrosser** [comment]
@eric-wieser, I addressed your comment about the accidentally dropped `#align_import` and would appreciate another pass.

(We are planning to use and extend this bitvector theory, and slowly reach a point where having this in mathlib would help us avoid doing redundant work out-of-tree)

**Comment by linesthatinterlace** [comment]
For what it's worth, I do not think this is the right approach. I appreciate that the plan is to re-enable reasoning about Bitvec as a vector of bits, but I think prioritising the arithmetic representation in this way is a misguided idea. I have been asked by @ericrbg to give an extension of my thoughts (some of which I expressed further in that Zulip thread).

Firstly, for context, I've recently been working with Fin(2^w) considered as a bitvector in some work of mine: the key stuff I have extracted out here. https://gist.github.com/linesthatinterlace/4843a288498cc8f258212e864b8b2ff6

In particular, being able to easily "pull out" one of the bits of Fin(2^(w + 1)) is a really nice feature. Notice I don't use the current Bitvec representation (which I also think is bad): but I do use finFunctionFinEquiv to convert between Fin(2^w) and Fin(w) -> Fin 2. I think on some level any approach which does not use this equivalence is missing a trick, because it already does so much work for you.

Essentially we have two reasonable definitions of Bitvec w, right? `Fin(w) -> Fin 2` and `Fin(2^w)`. You could also have `Fin(w) -> Bool`, I slightly prefer that for various reasons, but that is much of a muchness.

The idea behind this PR is that arithmetic operations on Bitvec w should use the Fin(2^w) representation, because that is much faster/you are using native Nat addition. I 100% agree with this.

However, bitwise operations, or bit-manipulation operations - such as complement, or and - should not be done, as here, by converting to the underlying nat values, and *then* doing the bitwise operations on Nat to find the bitwise-and (which is effectively I think what is happening). Because this loses the fact that the numbers have exactly w bits - bitwise-and for Nat is for nats where we don't specify an underlying bitlength, whereas here by definition we do know this. So I cannot believe that the approach here is the correct one. *Clearly* Fin w -> Fin 2 is the better representation here (or, actually, Fin w -> Bool: again, I like this more, but that's a different issue). You also want to be able to do things like "pull out a bit from the bitwise operation, and tweak that bit based on the number that remains" (this is what I need to do in my work). If you want to do this over Fin(2^w), really you are going to have to convert to Fin w -> Fin 2 first.

Essentially you have two types: "Bitvec w as an arithmetic animal" and "Bitvec w as a vector animal". Both of these have a set of operations and a representation that makes them more efficient. Actually, they also both have an order (former the arithmetic order, the latter the lexographic order), and these orders are compatible. That's sort of I think the whole ballgame.

The current approach for Bitvec prioritises the vector approach at the cost of the arithmetic approach (albeit also doing the vector approach in a bad way - tuples are preferable I think). This PR would prioritise the arithmetic approach, but I think the choices it makes with reference to bits are bad, even with the caveat that future PRs are intended to bridge the gap: at the heart the approach ignores the advantages that fixed-width bitwise or bit-twiddling operations give you. I do not think it is the right way to go.

One possibility would be that you have Bitvec w (Fin w -> Fin 2 or Fin w -> Bool) and FixedWidth w (Fin (2^w)), with the obvious equivalence between them, and define the operations that are natural on each of them in the sensible way, and the operations that aren't natural (e.g. addition on Bitvec w) you define via conjugation by the equivalence. But you can then also show that this is equivalent to the things that ought to be true about it, if you like. And if you really wanted to be neutral you could have a third type which contained both the BitVec and FixedWidth representations of a number and a proof that they were equivalent, and simply do the required operations on that.

Anyway: these are just my thoughts as I was alerted to this by @ericrbg: but speaking as someone who has been working with the bit-representation of Fin(2^w) recently, I think this PR completely ignores things like `finFunctionFinEquiv` and is worse for it, and I do not believe it is the right approach.

**Comment by linesthatinterlace** [comment]
In short, I suppose: I agree with this. https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Proposed.20refactor.20of.20Bitvec/near/376094740, and I think the discussion there captured much of what I've tried to say above, and contains a lot more nuance than the poll which I think doesn't fairly present the options.

**Comment by ChrisHughes24** [comment]
I agree with @linesthatinterlace that the dependence on `Nat.bitwise` is bad, mainly for the reason that `Nat.bitwise` is wrong whenever `f false false = true`.  It is probably a faster way to get the definition of `and` and `or` etc. on Bitvectors, but very quickly we will want a generic bitwise on Bitvector, and this cannot depend on `Nat.bitwise` because that definition is wrong when `f false false = true`. So I think all bitwise stuff should probably depend on a generic `bitwise` on bitvectors.

I disagree with the proposal for two named types, I think we want one `Bitvector`, but definitely we want functions `Bitvec n -> Fin n -> Bool` and `Bitvec n -> Vector n Bool`, but we shouldn't have any type alias for these. I would keep the `Fin (2 ^ n)` representation, but have enough API that the user can induct on it like a vector or use it like a function to bool if they want.

**Comment by linesthatinterlace** [comment]
I see what you're saying, Chris: I actually think we want *equivalences* rather than functions but same difference. I don't wholly disagree (though if we only have one type synonym, I think we should called Fin(2^m) FixedWidth and NOT Bitvector: I don't think we should call something Bitvector when it isn't vectorish in shape).

One reason to favour named types, as a counter proposal, is that it can help with poking the typechecker to unify stuff. For example, sometimes one might have something of type Fin (1 + 1) -> Bool, and you want to treat this as (what I will synonymise as) Fin 2 -> Bool. Actually Lean can do this with no effort, it can unify the types because 1 + 1 is defeq to 2, but if everything is written explictly it can have issues.

(There are similar issues with Fin (2^0) and Fin 1, incidentally, and Fin (2^1) and Fin 2. It's another reason why having a type synonym there can be useful.)

It may be that there's better ways to solve this type of issue but I have noticed that sometimes giving a name to a complicated type involving Fin (expression) helps with type unification.

**Comment by linesthatinterlace** [comment]
And, yes, frankly Nat.bitwise is *also* not ideal, and it would be good to see it nixed and integrated with this, rather than used as a foundation...

(Every Nat can be coerced to a suitable Bitvector/FixedWith by using, I think it's called nextPowerOfTwo?)

File: Mathlib/Data/Bitvec/Defs.lean [hunk 13]
```diff
@@ -1,339 +1,189 @@
...
+We inherit `Fin` implementations when fast but write mod/div
+ourselves to avoid the extra modulo operation.
+-/
+/-- The mod of two bitvectors. -/
+protected def mod (x y : BitVec w) : BitVec w :=
+  ⟨x.val % y.val, Nat.lt_of_le_of_lt (Nat.mod_le _ _) x.isLt⟩
+
+/-- Dividing two bitvectors. -/
+protected def div (x y : BitVec w) : BitVec w :=
+  ⟨x.val / y.val, Nat.lt_of_le_of_lt (Nat.div_le_self _ _) x.isLt⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:58]: Can this extra mod operation just be removed from the existing definitions?

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 14]
```diff
@@ -1,173 +1,68 @@
...
-end Bitvec
+variable {w v : Nat}
+
+@[norm_cast]
+theorem val_bitvec_eq {x y : BitVec w} : x.val = y.val ↔ x = y :=
+  ⟨(match x, y, · with | ⟨_, _⟩,⟨_, _⟩, rfl => rfl), (· ▸ rfl)⟩
+
+/-- `x < y` as natural numbers if and only if `x < y` as `BitVec w`. -/
+@[norm_cast]
+theorem val_bitvec_lt {x y : BitVec w} : x.val < y.val ↔ x < y := by
```
Comment (ChrisHughes24) [inline Mathlib/Data/Bitvec/Lemmas.lean:27]: `val_lt_val`

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 15]
```diff
@@ -1,173 +1,68 @@
...
+  simp [LT.lt, BitVec.lt]
+
+/-- `x ≠ y` as natural numbers if and only if `x != y` as `BitVec w`. -/
+@[norm_cast]
+theorem val_bitvec_bne {x y : BitVec w} : x.val ≠ y.val ↔ x != y := by
```
Comment (ChrisHughes24) [inline Mathlib/Data/Bitvec/Lemmas.lean:32]: `val_ne_val_iff_bne`

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 16]
```diff
@@ -1,173 +1,68 @@
...
+  simp [bne, val_bitvec_eq]
+
+lemma testBit_eq_ofNat {k} {x : BitVec w} :
```
Comment (ChrisHughes24) [inline Mathlib/Data/Bitvec/Lemmas.lean:35]: I think shift should be mentioned in the name of this lemma

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 17]
```diff
@@ -1,173 +1,68 @@
...
+  Bool.toNat (testBit (x.val) k) = (BitVec.ofNat 1 (x.val >>> k)).val:= by
+  simp only [BitVec.ofNat, Fin.ofNat', testBit, mod_two_of_bodd, pow_one]
+  aesop
+
+lemma val_to_ofNat {m} (h : m < 2^w) : (BitVec.ofNat w m).val = m := by
```
Comment (ChrisHughes24) [inline Mathlib/Data/Bitvec/Lemmas.lean:40]: `val_ofNat`

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 18]
```diff
@@ -1,173 +1,68 @@
...
+  simp [BitVec.ofNat, Fin.ofNat', mod_eq_of_lt h]
+
+lemma ofNat_to_val (x : BitVec w) : BitVec.ofNat w x.val = x := by
```
Comment (ChrisHughes24) [inline Mathlib/Data/Bitvec/Lemmas.lean:43]: `ofNat_val`

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 19]
```diff
@@ -1,173 +1,68 @@
...
+  simp [BitVec.ofNat, Fin.ofNat', mod_eq_of_lt x.isLt]
+
+lemma ofNat_to_val' (x : BitVec w) (h : v = w):
+  HEq x (BitVec.ofNat v x.val) := h ▸ heq_of_eq (ofNat_to_val x).symm
+
+theorem concat_ext {x : BitVec w} {y : BitVec v} :
```
Comment (ChrisHughes24) [inline Mathlib/Data/Bitvec/Lemmas.lean:49]: This is about `append` not `concat` right? And it's not an extensionality theorem. It should have a name that has more to do with the statement.

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 20]
```diff
@@ -1,173 +1,68 @@
...
+  (x ++ y).val = x.val <<< v ||| y.val := rfl
+
+theorem extract_ext {i j} {x : BitVec w} :
+  (extract i j x).val = x.val / 2 ^ j % (2 ^ (i - j + 1)) := by
```
Comment (ChrisHughes24) [inline Mathlib/Data/Bitvec/Lemmas.lean:53]: `val_extract_eq_div_pow_mod`

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 21]
```diff
@@ -1,173 +1,68 @@
...
+  simp [extract, BitVec.ofNat, Fin.ofNat', shiftRight_eq_div_pow]
+
+theorem get_eq_testBit {x : BitVec w} {i} : x.get i = x.val.testBit i := by
```
Comment (ChrisHughes24) [inline Mathlib/Data/Bitvec/Lemmas.lean:56]: Why do we have three ways of saying the same thing?

**Comment by alexkeizer** [comment]
> I agree with @linesthatinterlace that the dependence on Nat.bitwise is bad, mainly for the reason that Nat.bitwise is wrong whenever f false false = true. It is probably a faster way to get the definition of and and or etc. on Bitvectors, but very quickly we will want a generic bitwise on Bitvector, and this cannot depend on Nat.bitwise because that definition is wrong when f false false = true. So I think all bitwise stuff should probably depend on a generic bitwise on bitvectors.

Although I agree `Nat.bitwise` is a bit of a footgun because of the mentioned reasons, I don't really agree with the conclusion. We aren't so much choosing to depend on `Nat.bitwise` as re-using bitwise operations on `Nat`, which happen to be modeled in terms of `Nat.bitwise`. Just like for arithmetic, doing this gives us bitwise `and`/`or`/`not` in a single instruction (assuming `n <= 64`).

I don't agree that the difference between `Fin 2^n` and `Fin n -> Bool`/`Vector Bool n` lies in arithmetic versus bitwise perspectives. In my opinion this is about whether you want optimized operations (both arithmetic *and* bitwise), or whether you want easy to reason about operations.

If we define a `BitVec.bitwise`, I wholeheartedly agree we should stay away from `Nat.bitwise`. I just don't think we should use this `BitVec.bitwise` to define bitwise `and` (and co.) --- we should just prove a theorem allowing us to rewrite `and` in terms of `BitVec.bitwise` for reasoning.

**Comment by mhk119** [comment]
Thanks @linesthatinterlace for your comment. Right, the idea is to define Bitvector operations in terms of operations on underlying natural numbers because it is much faster. In light of this, there are some operations that clearly have a much nicer elegant definition in terms of naturals (such as addition and multiplication). On the other hand, it's not clear that defining bitwise operations such as and/or is nicer this way (in fact, it probably isn't but it's still faster :)). My position is to define all of the fundamental operations in terms of underlying naturals for efficiency. And a ```BitVec.bitwise``` could be used for less fundamental operations I suppose.

Then with these definitions, we will prove that they are equivalent to the corresponding vector-like definitions (in future PRs). It looks like ```finFunctionFinEquiv``` would be useful here (I was unaware of this so thanks for bringing this up). Personally, just having a function ```BitVec n -> Fin n -> Bool``` is cleaner than a named type.

**Comment by linesthatinterlace** [comment]
I think you've persuaded me that this is the right approach. I am a bit surprised that, e.g., finding the complement by calculating 0 - (x+ 1) is the performant way of doing it, but if it is, it is. It would be good to see metrics on this: if we are going to have a Bitwise type that prioritises performance in all things, let's make sure we definitely are making the performant choices.

Agree that we can then simply have a function to Fin n -> Bool. Actually I believe we should definitely have a function both ways, i.e. we should define an equiv (which will probably just be finFunctionFinEquiv in a hat): it'll just be a lot easier to work with because sometimes you'll want to pass into the one representation and pass out again (see my getBitResiduum above for an example of what I mean - actually there probably are more performant ways of doing the kind of twiddle I do there but I'm not sure I know how to prove they work...)

What I want to make sure we're doing is that everything lies flat and we don't end up proving the same thing twice separately, or have parallel theories that don't quite work. The current PR does still "tastes messy" to me in this sense. In my experience, tiny choices with regards to things like "how does this actually get bits" can make a big difference.

If you really think this is the best way, however, and we've done the analysis to prove it, then there's no reason not to use this approach.

**Comment by tobiasgrosser** [comment]
I am not a theorem proving expert, but using native integers on a CPU, we can compute the complement for up to 64 bit in three cycles latency and probably even higher throughput. Any representation that uses 'lists of sth' will be in the 10th to 100s of cycles, cannot be vectorized, .... So with respect to efficiency, I think there is clear agreement that the proposed representation here is best. It also seems we have plans forward to develop an effective proof infrastructure to make this high-performance implementation good to reason about.

**Comment by linesthatinterlace** [comment]
I'm very excited, then. This has a lot of great potential.

What are the chances by the way that you could do something like synthesizing a proof for facts about BVs using a suitable SMT solver?

**Comment by mhk119** [comment]
> I'm very excited, then. This has a lot of great potential.
> 
> What are the chances by the way that you could do something like synthesizing a proof for facts about BVs using a suitable SMT solver?

Yes that is the idea. This PR stemmed from our project [lean-smt](https://github.com/mhk119/lean-smt/blob/bitvec/Smt/Data/BitVec.lean) where we are making a Lean tactic that can call an smt-solver to close goals. Really exciting!

**Comment by linesthatinterlace** [comment]
I did see some comments that made me wonder if you were thinking along those lines. Very cool.

**Comment by tobiasgrosser** [comment]
Indeed. @mhk119's work will make this so much more useful. We are working on using the same representation to optimize programs. This PR is foundational to several efforts in this area, and agreeing on a joint representation will enable us to collaborate a lot more effectively. It is nice to see more and more convergence here. I am looking forward to seeing the last open questions resolved.

**Comment by tobiasgrosser** [comment]
One of our first steps is to proof LLVM/MLIR peephole rewrites with Lean. We have plenty of Bitvector level theorems to be proven correct: https://github.com/opencompl/ssa/blob/main/SSA/Projects/InstCombine/AliveStatements.lean and these are used in llvm.org and mlir.llvm.org to optimize the speed of programs. Coincidentally, @bollu and @hargoniX are also working on an LLVM backend for Lean itself (https://github.com/leanprover/lean4/milestone/3). 

Anyway, let me not distract from this PR further. It seems we are on a good track here.

File: Mathlib/Data/Bitvec/Defs.lean (hunk 13 above)
Comment (mhk119) [reply Mathlib/Data/Bitvec/Defs.lean:58]: I believe it is indeed unnecessary in the `Fin` definition.

File: Mathlib/Data/Bitvec/Defs.lean [hunk 22]
```diff
@@ -1,339 +1,177 @@
...
+/-- Less than or equal to for two bitvectors. -/
+protected def le (x y : BitVec w) : Bool :=
+  x.val ≤ y.val
 
-instance {n} : HShiftRight (Bitvec n) Nat (Bitvec n) := ⟨Bitvec.ushr⟩
+instance : Ring (BitVec w) := inferInstanceAs (Ring (Fin _))
+instance : Mod (BitVec w) := inferInstanceAs (Mod (Fin _))
+instance : Div (BitVec w) := inferInstanceAs (Div (Fin _))
+instance : LT (BitVec w)  := ⟨fun x y => BitVec.lt x y⟩
+instance : LE (BitVec w)  := ⟨fun x y => BitVec.le x y⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:65]: Why not inherit the `LinearOrder` instance from `Fin` here?

Perhaps a better question: is there anything you *don't* want to inherit from `Fin`? If not, making `BitVec` an `abbrev` would save you a lot of work.

File: Mathlib/Data/Bitvec/Defs.lean [hunk 23]
```diff
@@ -1,339 +1,177 @@
...
+/-!
+## Arithmetic
+We inherit `Fin` implementations.
+-/
 
-instance {n} {x y : Bitvec n} : Decidable (Bitvec.Ugt x y) :=
-  decEq _ _
+/-- Less than for two bitvectors. -/
+protected def lt (x y : BitVec w) : Bool :=
+  x.val < y.val
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:55]: Note this should have been a `Prop` not a `Bool`, though my comment below advocates deleting this anyway.

File: Mathlib/Data/Bitvec/Defs.lean [hunk 24]
```diff
@@ -1,339 +1,177 @@
...
+
+/-- Generate and concatenate `i` copies of a bitvector. -/
+def replicate : (i : Nat) → BitVec w → BitVec (w * i)
+  | 0,   _ => 0
+  | n + 1, x =>
+    have hEq : w + w * n = w * (n + 1) := by
+      rw [Nat.mul_add, Nat.add_comm, Nat.mul_one]
+    hEq ▸ (x ++ replicate n x)
+
+/-- Pad a bitvector by the zero bitvector of length `i`. -/
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:145]: Is this padding the MSB or the LSB?

File: Mathlib/Data/Bitvec/Defs.lean [hunk 25]
```diff
@@ -1,339 +1,177 @@
...
+namespace BitVec
 
-instance : Add (Bitvec n) :=
-  ⟨Bitvec.add⟩
 
-instance : Sub (Bitvec n) :=
-  ⟨Bitvec.sub⟩
+/-- The zero bitvector. -/
+protected def zero (w : Nat) : BitVec w :=
+  ⟨0, Nat.two_pow_pos w⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:38]: There's no point in having this when you have `0 : BitVec w`

File: Mathlib/Data/Bitvec/Defs.lean [hunk 26]
```diff
@@ -1,339 +1,177 @@
...
 
-instance : Neg (Bitvec n) :=
-  ⟨Bitvec.neg⟩
+/-- The bitvector `n mod 2^w`. -/
+protected def ofNat (w : Nat) (n : Nat) : BitVec w :=
+  Fin.ofNat' n (Nat.two_pow_pos w)
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:42]: Similarly this can be removed, it's implied by the `Ring` instance below.

File: Mathlib/Data/Bitvec/Defs.lean [hunk 27]
```diff
@@ -1,339 +1,177 @@
...
+
+/-- Left rotation by some amount. -/
+def rotateLeft (x : BitVec w) (n : Nat) : BitVec w :=
+  x <<< n ||| x >>> (w - n)
+
+/-- Right rotation by some amount. -/
+def rotateRight (x : BitVec w) (n : Nat) : BitVec w :=
+  x >>> n ||| x <<< (w - n)
+
+/-- Concatenation of two bitvectors. -/
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:126]: Please indicate which argument contains the MSBs and which is the LSBs; perhaps by renaming the arguments!

File: Mathlib/Data/Bitvec/Defs.lean [hunk 28]
```diff
@@ -1,339 +1,177 @@
...
+protected def append (x : BitVec w) (y : BitVec v) : BitVec (w + v) :=
+  ⟨x.val <<< v ||| y.val, Nat.add_comm _ _ ▸ Nat.append_lt y.isLt x.isLt⟩
+
+instance : HAppend (BitVec w) (BitVec v) (BitVec (w + v)) := ⟨BitVec.append⟩
+
+/-- Extract the bitvector between indices i and j. -/
+@[simp]
+def extract (i j) (x : BitVec w) : BitVec (i - j + 1) :=
+  BitVec.ofNat _ (x.val >>> j)
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:135]: I would argue this should be
```suggestion
@[simp]
def extract (i j) (x : BitVec w) : BitVec (i - j) :=
  BitVec.ofNat _ (x.val >>> j)
```
that is, `extract 0 8 x` obtains the lowest 8 bits, and `extract i j x ++ extract j k x = extract i k x` (or perhaps the other way around, since you didn't document `++` clearly enough!)

File: Mathlib/Data/Bitvec/Defs.lean [hunk 29]
```diff
@@ -1,339 +1,177 @@
...
+  hEq ▸ ((replicate i (extract (w - 1) (w - 1) x)) ++ x)
+
+/-- Keep the `v` least significant bits of a bitvector. -/
+def shrink (v) (x : BitVec w) : BitVec v :=
+  if hZero : 0 < v then
+    have hEq : v - 1 + 0 + 1 = v := by
+      rw [Nat.add_zero]
+      exact Nat.sub_add_cancel hZero
+    hEq ▸ x.extract (v - 1) 0
+  else 0
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:163]: With my suggested change to `extract` this becomes
```suggestion
  x.extract v 0
```
which probably indicates you don't need the definition at all.

File: Mathlib/Data/Bitvec/Defs.lean [hunk 30]
```diff
@@ -1,339 +1,177 @@
...
+
+/-- Return the `i`-th least significant bit. -/
+@[simp]
+def get (x : BitVec w) (i : Nat) : Bool :=
+  x.extract i i != 0
+
+/-- View a bitvector as a list of booleans. -/
+def bbT (bs : List Bool) : BitVec bs.length :=
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:171]: This docstring is backwards

File: Mathlib/Data/Bitvec/Defs.lean [hunk 31]
```diff
@@ -1,339 +1,177 @@
...
+
+/-- The left-shift of a bitvector by some amount. -/
+protected def shiftLeft (x : BitVec w) (n : Nat) : BitVec w :=
+  .ofNat w (x.val <<< n)
+
+/-- The right-shift of a bitvector by some amount. -/
+protected def shiftRight (x : BitVec w) (n : Nat) : BitVec w :=
+  ⟨x.val >>> n, by
+      simp only [Nat.shiftRight_eq_div_pow]
+      exact lt_of_le_of_lt (Nat.div_le_self' _ _) (x.isLt) ⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:95]: Either you should remove these definitions (and inline their implementation into the `instance` below), or you should add a simp lemma for each that replaces it with the corresponding notation.

File: Mathlib/Data/Bitvec/Defs.lean (hunk 13 above)
Comment (mhk119) [reply Mathlib/Data/Bitvec/Defs.lean]: Actually, there is a comment in the file `Init.Data.Fin.Basic` saying 
```
/-!
Remark: mod/div/modn/land/lor can be defined without using (% n), but
we are trying to minimize the number of Nat theorems
needed to boostrap Lean.
-/
```
Hence, I suppose we leave the `Fin` definitions as is.

Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Defs.lean]: If this is just about runtime performance, I believe the thing to do is write a `csimp` lemma that rewrites the slow implementations into fast implementations; then:
* you don't actually need a new implementation
* the implementation ends up being fast for `Fin` too, not just `BitVec`

Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Defs.lean]: (please do this in a standalone PR!)

File: Mathlib/Data/Bitvec/Defs.lean [hunk 32]
```diff
@@ -1,339 +1,189 @@
...
+instance : Zero (BitVec w) := ⟨BitVec.zero w⟩
 
+/-!
+## Arithmetic
+We inherit `Fin` implementations when fast but write mod/div
+ourselves to avoid the extra modulo operation.
+-/
+/-- The mod of two bitvectors. -/
+protected def mod (x y : BitVec w) : BitVec w :=
+  ⟨x.val % y.val, Nat.lt_of_le_of_lt (Nat.mod_le _ _) x.isLt⟩
```
[the remark this answers is not in the document]
Comment (mhk119) [reply Mathlib/Data/Bitvec/Defs.lean]: Now that ```BitVec w``` is an abbrev over ```Fin 2^w```, I don't think we can change that.

File: Mathlib/Data/Bitvec/Defs.lean [hunk 33]
```diff
@@ -1,339 +1,189 @@
...
+
+/-- Dividing two bitvectors. -/
+protected def div (x y : BitVec w) : BitVec w :=
```
[the remark this answers is not in the document]
Comment (mhk119) [reply Mathlib/Data/Bitvec/Defs.lean]: Since ```BitVec w``` is now an ```abbrev Fin 2^w```, I think all of the definitions that required it are either gone or they now mention which one is used.

**Comment by alexkeizer** [comment]
Now that #7410 is merged to master, I merged master back into this branch and removed the previous proof of equality between `bitwise` and `bitwise'`

**Comment by eric-wieser** [comment]
I'd be somewhat in favor of wrapping up #7451 before coming back to this, if you're ok with that.

File: Mathlib/Data/Bitvec/Defs.lean [hunk 34]
```diff
@@ -1,339 +1,119 @@
...
+protected def shiftRight (x : BitVec w) (n : Nat) : BitVec w :=
+  ⟨x.val >>> n, by
+      simp only [Nat.shiftRight_eq_div_pow]
+      exact lt_of_le_of_lt (Nat.div_le_self' _ _) (x.isLt)⟩
 
-/-- convert `Bitvec` to `fin` -/
-def toFin {n : ℕ} (i : Bitvec n) : Fin (2 ^ n) :=
-  i.toNat
-#align bitvec.to_fin Bitvec.toFin
+instance : Complement (BitVec w) := ⟨(· + (1 : BitVec w))⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:60]: This looks wrong to me; should't it be `-1 - x`, so that `0b110 = 6` is sent to `0b001 = 1 = -7`?

Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Defs.lean:60]: (Or better, `finReverse` or whatever the existing map is called)

**Comment by semorrison** [comment]
Leo would like https://github.com/leanprover/std4/pull/286 merged soon, as it is needed for other projects.

I think the two options are:
* just wait until that PR lands, and then adapt this PR
* make whatever suggestions you like on that PR, but hopefully quite quickly! Please don't add lemmas to the Std library beyond basic simp lemmas or lemmas characterising operations. (Or perhaps simpler: let's just not add any for now.)

**Comment by eric-wieser** [comment]
I'm rather confused about how this code overlaps with that code. Where did Leo's code come from; did you develop this PR independently, @alexkeizer? Are both PRs copied from some work by Joe Hendrix that is publicly available?

**Comment by mhk119** [comment]
> I'm rather confused about how this code overlaps with that code. Where did Leo's code come from; did you develop this PR independently, @alexkeizer? Are both PRs copied from some work by Joe Hendrix that is publicly available?

I started working on the PR that Joe Hendrix started [here](https://github.com/ufmg-smite/lean-smt/blob/main/Smt/Data/BitVec.lean). Perhaps Leo has the same file?

**Comment by mhk119** [comment]
> Leo would like [leanprover/std4#286](https://github.com/leanprover/std4/pull/286) merged soon, as it is needed for other projects.
> 
> I think the two options are:
> 
> * just wait until that PR lands, and then adapt this PR
> * make whatever suggestions you like on that PR, but hopefully quite quickly! Please don't add lemmas to the Std library beyond basic simp lemmas or lemmas characterising operations. (Or perhaps simpler: let's just not add any for now.)

**Comment by mhk119** [comment]
> Leo would like [leanprover/std4#286](https://github.com/leanprover/std4/pull/286) merged soon, as it is needed for other projects.
> 
> I think the two options are:
> 
> * just wait until that PR lands, and then adapt this PR
> * make whatever suggestions you like on that PR, but hopefully quite quickly! Please don't add lemmas to the Std library beyond basic simp lemmas or lemmas characterising operations. (Or perhaps simpler: let's just not add any for now.)

Thanks! This is exciting. I believe having these BitVec definitions in Std is a great step forward. I'm in favor of going with option 1.

File: Mathlib/Data/Bitvec/Defs.lean [hunk 35]
```diff
@@ -1,339 +1,56 @@
...
+We also define many bitvector operations from the
+[`QF_BV` logic](https://smtlib.cs.uiowa.edu/logics-all.shtml#QF_BV).
+of SMT-LIBv2.
 -/
 
-/-- `Bitvec n` is a `Vector` of `Bool` with length `n`. -/
-@[reducible]
-def Bitvec (n : ℕ) :=
-  Vector Bool n
-#align bitvec Bitvec
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:25]: Can you try to keep these aligns? For instance, this one would become `#align bitvec Std.BitVec`

**Comment by alexkeizer** [comment]
I've now refactored this PR to include the changes made in #7451 and https://github.com/leanprover/std4/pull/286. This means a rather big part of this PR has been removed (since it was upstreamed in Std)

File: Mathlib/Data/Bitvec/Defs.lean [hunk 36]
```diff
@@ -1,339 +1,102 @@
...
+import Mathlib.Data.ZMod.Defs
+import Std.Data.BitVec
 
-This is a work-in-progress, and contains additions to other theories.
 
-This file was moved to mathlib from core Lean in the switch to Lean 3.20.0c.
-It is not fully in compliance with mathlib style standards.
+/-!
+# Basic operations on bitvectors
+We define bitvectors. We choose the `Fin` representation over others for its relative efficiency
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:15]: I guess this docstring is no longer accurate (and nor is the PR title)

Comment (alexkeizer) [reply Mathlib/Data/Bitvec/Defs.lean]: I've updated both

**Comment by alexkeizer** [comment]
Sorry about that. The proof broke, I think because the definition of `getLsb` changed. I wanted to get the CI green first, to make sure no downstream files got broken, so I removed it

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 37]
```diff
@@ -1,173 +1,84 @@
...
+@[simp] lemma neg_eq (x : BitVec w)                     : BitVec.neg x = -x                 := rfl
+@[simp] lemma add_eq (x y : BitVec w)                   : BitVec.add x y = x + y            := rfl
+@[simp] lemma sub_eq (x y : BitVec w)                   : BitVec.sub x y = x - y            := rfl
+@[simp] lemma mul_eq (x y : BitVec w)                   : BitVec.mul x y = x * y            := rfl
+
+theorem toNat_inj {x y : BitVec w} : x.toNat = y.toNat ↔ x = y :=
+  ⟨(match x, y, · with | ⟨_, _⟩,⟨_, _⟩, rfl => rfl), (· ▸ rfl)⟩
+
+/-- `x < y` as natural numbers if and only if `x < y` as `BitVec w`. -/
+theorem toNat_lt_toNat {x y : BitVec w} : (x.toNat < y.toNat) = (x < y) := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:38]:
```suggestion
theorem toNat_lt_toNat {x y : BitVec w} : x.toNat < y.toNat ↔ x < y := rfl
```

**Comment by mhk119** [comment]
> Sorry about that. The proof broke, I think because the definition of `getLsb` changed. I wanted to get the CI green first, to make sure no downstream files got broken, so I removed it

Ok cool. I proved the sorry using another outline. Do you still want those three `sorry`-ed lemmas? I removed them for now because I thought it was just for filling in that `sorry` in `get_eq_testBit`.

**Comment by alexkeizer** [comment]
> > Sorry about that. The proof broke, I think because the definition of `getLsb` changed. I wanted to get the CI green first, to make sure no downstream files got broken, so I removed it
> 
> Ok cool. I proved the sorry using another outline. Do you still want those three `sorry`-ed lemmas? I removed them for now because I thought it was just for filling in that `sorry` in `get_eq_testBit`.

That's perfectly fine, there's no need for those lemmas. It's better to go with the phrasing in terms of multiplication and power, since those are the simp normal forms, anyway. I just did some cleanup, moving the lemma about `Nat`s to the `Nat.Bitwise` file.


I noticed that the files are currently under a `Bitvec` folder, while the type is `BitVec` (with capital `V`). Do we want to change that, to make imports more consistent?

File: Mathlib/Data/BitVec/Lemmas.lean [hunk 38]
```diff
@@ -0,0 +1,74 @@
...
+lemma toNat_ofFin (x : Fin (2^w)) : (ofFin x).toNat = x.val := rfl
+
+@[simp]
+lemma ofNat_toNat (x : BitVec w) : BitVec.ofNat w x.toNat = x := by
+  rcases x with ⟨x⟩
+  simp [BitVec.ofNat]
+  apply Fin.cast_val_eq_self x
+
+lemma ofNat_toNat' (x : BitVec w) (h : v = w):
+    HEq x (BitVec.ofNat v x.toNat) := h ▸ heq_of_eq (ofNat_toNat x).symm
```
Comment (alexkeizer) [inline Mathlib/Data/BitVec/Lemmas.lean:56]:
```suggestion@[simp]
lemma cast_eq (x : BitVec w) (h : w = w) : x.cast h = x :=
  rfl

lemma ofNat_toNat' (x : BitVec w) (h : w = v):
    BitVec.ofNat v x.toNat = x.cast h := by
  cases h; rw [ofNat_toNat, cast_eq]
```

Heterogeneous equalities are a pain to work with, I would suggest using `BitVec.cast` here

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/Data/BitVec/Lemmas.lean [hunk 39]
```diff
@@ -52,8 +52,13 @@ lemma ofNat_toNat (x : BitVec w) : BitVec.ofNat w x.toNat = x := by
   simp [BitVec.ofNat]
   apply Fin.cast_val_eq_self x
 
-lemma ofNat_toNat' (x : BitVec w) (h : v = w):
-    HEq x (BitVec.ofNat v x.toNat) := h ▸ heq_of_eq (ofNat_toNat x).symm
+@[simp]
+lemma cast_eq (x : BitVec w) (h : w = w) : x.cast h = x :=
+  rfl
```
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Lemmas.lean:57]:
```suggestion
lemma cast_eq (x : BitVec w) : x.cast rfl = x :=
  rfl
```

File: Mathlib/Data/BitVec/Lemmas.lean [hunk 40]
```diff
@@ -0,0 +1,79 @@
...
+theorem toNat_append {msbs : BitVec w} {lsbs : BitVec v} :
+    (msbs ++ lsbs).toNat = msbs.toNat <<< v ||| lsbs.toNat := by
+  rcases msbs with ⟨msbs, hm⟩
+  rcases lsbs with ⟨lsbs, hl⟩
+  simp only [HAppend.hAppend, append, toNat_ofFin]
+  rw [toNat_ofNat (Nat.add_comm w v ▸ append_lt hl hm)]
+
+theorem toNat_extractLsb {i j} {x : BitVec w} :
+    (extractLsb i j x).toNat = x.toNat / 2 ^ j % (2 ^ (i - j + 1)) := by
+  simp [extractLsb, extractLsb', shiftRight_eq_div_pow]
```
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Lemmas.lean:72]: I would guess that Mathlib doesn't want to both writing lemmas about `extractLsb` because it's awkward to use; I think we should just have a simp lemma that rewrites `extractLsb` as `extractLsb'`, and write all the lemmas about that.

Comment (alexkeizer) [reply Mathlib/Data/BitVec/Lemmas.lean]: I've added 
```lean
@[simp]
lemma extractLsb_eq {w : ℕ} (hi lo : ℕ) (a : BitVec w) :
    extractLsb hi lo a = extractLsb' lo (hi - lo + 1) a :=
  rfl
```

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 41]
```diff
@@ -1,173 +0,0 @@
...
-    simp [Nat.mul_succ]
-  · simp
-    apply xs_ih
-#align bitvec.to_nat_append Bitvec.toNat_append
-
--- Porting Note: the mathlib3port version of the proof was :
---  simp [bits_to_nat_to_list]
---  unfold bits_to_nat add_lsb List.foldl cond
---  simp [cond_to_bool_mod_two]
-theorem bits_toNat_decide (n : ℕ) : Bitvec.toNat (decide (n % 2 = 1) ::ᵥ Vector.nil) = n % 2 := by
```
Comment (ChrisHughes24) [inline Mathlib/Data/Bitvec/Lemmas.lean:59]: This appears to have been deleted

**Review by ChrisHughes24 — COMMENTED** [review]
I haven't completely checked, but can you try to make sure that definitions or lemmas have not been deleted, and there is at least something more or less the same as everything that already exists.

File: Mathlib/Data/BitVec/Lemmas.lean [hunk 42]
```diff
@@ -0,0 +1,84 @@
...
+  cases h; rw [ofNat_toNat, cast_eq]
+
+theorem toNat_append {msbs : BitVec w} {lsbs : BitVec v} :
+    (msbs ++ lsbs).toNat = msbs.toNat <<< v ||| lsbs.toNat := by
+  rcases msbs with ⟨msbs, hm⟩
+  rcases lsbs with ⟨lsbs, hl⟩
+  simp only [HAppend.hAppend, append, toNat_ofFin]
+  rw [toNat_ofNat (Nat.add_comm w v ▸ append_lt hl hm)]
+
+@[simp]
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply Mathlib/Data/BitVec/Lemmas.lean:70]: This was suggested by @eric-wieser 
> I would guess that Mathlib doesn't want to both writing lemmas about `extractLsb` because it's awkward to use; I think we should just have a simp lemma that rewrites `extractLsb` as `extractLsb'`, and write all the lemmas about that.

(BTW, when making a review comment about a piece of code that spans multiple lines, you can click-and-drag, that way you can control which lines GitHub will show. Currently it only shows the `@[simp]` attribute and a few preceding, unrelated lines, making it a bit harder to see that it is about
```lean
@[simp]
lemma extractLsb_eq {w : ℕ} (hi lo : ℕ) (a : BitVec w) :
    extractLsb hi lo a = extractLsb' lo (hi - lo + 1) a :=
  rfl
```
)

File: Mathlib/Data/BitVec/Defs.lean [hunk 43]
```diff
@@ -0,0 +1,104 @@
...
+#align bitvec.to_nat Std.BitVec.toNat
+#align bitvec.of_fin Std.BitVec.ofFin
+#align bitvec.to_fin Std.BitVec.toFin
+#align bitvec.to_int Std.BitVec.toInt
+
+#noalign bitvec.one
+#noalign bitvec.adc
+#noalign bitvec.sbb
+#noalign bitvec.uborrow
+#noalign bitvec.sborrow
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply Mathlib/Data/BitVec/Defs.lean:63]: Sure, but would it be OK to do this in another PR? I currently have a second PR ready that gives shows that `BitVec` is a commutative ring, but it's blocked on the current PR. If we merge this one, then we can work on bringing back these definitions in parallel to the Ring-PR being reviewed

File: Mathlib/Data/Nat/Bitwise.lean [hunk 44]
```diff
@@ -326,6 +344,55 @@ theorem bitwise_swap {f : Bool → Bool → Bool} :
...
+  simp only [testBit, shiftRight_eq_div_pow]
+  rw [Nat.add_div_of_dvd_right (Dvd.intro _ rfl), Nat.div_eq_of_lt h, add_zero]
+  cases' b <;> simp
+
+/-- Generic method to create a natural number by appending bits tail-recursively.
+It takes a boolean function `f` on each bit and `z` the starting point and the number of bits `i`.
+It is almost always specialized with `z = 0` and `i = w`; the length of the binary representation.
+Note that `ofBits f z i = 2 ^ i * z + ofBits f 0 i` which we prove next.
+This is an alternative to using `List`. It will be used for bitadd, bitneg, bitmul etc.-/
+def ofBits (f : Nat → Bool) (z : Nat) : Nat → Nat
```
[the remark this answers is not in the document]
Comment (mhk119) [reply Mathlib/Data/Nat/Bitwise.lean:369]: Because `z` is necessarily needed in the definition. At each step, it gets populated by the carry-out bit and then gets appended to the binary representation.

[the remark this answers is not in the document]
Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean:369]: How about
```lean
def ofBits (f : Nat → Bool) : Nat → Nat :=
  go 0
  where
    go (z : Nat) : Nat → Nat
    | 0 => z
    | i + 1 => go (z.bit (f i)) i
```
This conveys properly that `z` is just an internal accumulator, and that the public API should only ever have `z = 0`

File: Mathlib/Data/BitVec/Defs.lean (hunk 43 above)
[the remark this answers is not in the document]
Comment (ChrisHughes24) [reply Mathlib/Data/BitVec/Defs.lean:63]: I think the convention is that mathlib never gets worse. We shouldn't lose things and get them back, just in case somebody needs them and they get annoyed.

[the remark this answers is not in the document]
Comment (alexkeizer) [reply Mathlib/Data/BitVec/Defs.lean]: Turns out that `sborrow` and `uborrow` are just `slt` and `ult`, so I aligned them to that.
I've also added `adc` and `sbb`, although I would personally classify those as auxiliary defs, and not particularly interesting by themselves. For context, this is their implementation
```lean
/-- Add with carry (no overflow) -/
def adc {n} (x y : BitVec n) (c : Bool) : BitVec (n+1) :=
  ofFin (x.toNat + y.toNat + c.toNat)
#align bitvec.adc Std.BitVec.adc

/-- Subtract with borrow -/
def sbb {n} (x y : BitVec n) (b : Bool) : Bool × BitVec n :=
  let y := y + ofFin b.toNat
  (x < y, x - y)
#align bitvec.sbb Std.BitVec.sbb
```

File: Mathlib/Data/BitVec/Defs.lean
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Defs.lean:1]: For the purpose of a nicer diff, can you rename this back to `Bitvec` with a lowercase `v`? You can then rename it back to `V` in a follow-up PR.

File: Mathlib/Data/Nat/Bitwise.lean (hunk 44 above)
[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply Mathlib/Data/Nat/Bitwise.lean]: I moved the proves to this version of ofBits.

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 41 above)
Comment (tobiasgrosser) [reply Mathlib/Data/Bitvec/Lemmas.lean:59]: This seems to be a helper theorem that was only used in the old `to_nat_of_nat`. I am wondering, how would you even state it on the current BitVec representation?

File: Mathlib/Data/Nat/Bitwise.lean (hunk 44 above)
[the remark this answers is not in the document]
Comment (mhk119) [reply Mathlib/Data/Nat/Bitwise.lean]: Thanks!

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 41 above)
Comment (alexkeizer) [reply Mathlib/Data/Bitvec/Lemmas.lean:59]: We can define a `cons` operation as roughly `cons false x = x` and `cons true x = x + 2^n`, but I don't think this result would be particularly interesting

File: Mathlib/Data/Nat/Bitwise.lean [hunk 45]
```diff
@@ -326,6 +344,61 @@ theorem bitwise_swap {f : Bool → Bool → Bool} :
...
+    testBit (2 ^ w * b.toNat + n) w = b := by
+  simp only [testBit, shiftRight_eq_div_pow]
+  rw [Nat.add_div_of_dvd_right (Dvd.intro _ rfl), Nat.div_eq_of_lt h, add_zero]
+  cases' b <;> simp
+
+/-- Generic method to create a natural number by appending bits tail-recursively.
+It takes a boolean function `f` on each bit the number of bits `i`.  It is
+almost always specialized  `i = w`; the length of the binary representation.
+This is an alternative to using `List`. It will be used for bitadd, bitneg, bitmul etc.-/
+def ofBits (f : Nat → Bool) : Nat → Nat :=
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:368]: I'd expect this to be more convenient as 
```suggestion
def ofBits {i : Nat} (f : Fin n → Bool) : Nat :=
```
that is, make `f` dependently typed. Otherwise you need a congruence lemma that says `f j` is irrelevant unless `j < i`.

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 41 above)
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Lemmas.lean:59]: I think deleting this is fine, but you should never delete an `#align`; instead, replace it with `noalign`.

Comment (tobiasgrosser) [reply Mathlib/Data/Bitvec/Lemmas.lean:59]: Thank you, Eric. I added #noalign for bitvec.bits_to_nat_to_bool and bitvec.of_nat_succ.

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 46]
```diff
@@ -1,173 +1,152 @@
...
+  rfl
+#align bitvec.of_fin_val Std.BitVec.ofFin_val
 
 theorem addLsb_eq_twice_add_one {x b} : addLsb x b = 2 * x + cond b 1 0 := by
   simp [addLsb, two_mul]
-#align bitvec.add_lsb_eq_twice_add_one Bitvec.addLsb_eq_twice_add_one
-
-theorem toNat_eq_foldr_reverse {n : ℕ} (v : Bitvec n) :
-    v.toNat = v.toList.reverse.foldr (flip addLsb) 0 := by rw [List.foldr_reverse]; rfl
-#align bitvec.to_nat_eq_foldr_reverse Bitvec.toNat_eq_foldr_reverse
```
Comment (tobiasgrosser) [inline Mathlib/Data/Bitvec/Lemmas.lean:88]: @eric-wieser, do you think this lemma is needed? Its a little hard for me to prove, but maybe someone else could try? Or we leave it out if not strictly necessary.

File: Mathlib/Data/Nat/Bitwise.lean (hunk 45 above)
Comment (tobiasgrosser) [reply Mathlib/Data/Nat/Bitwise.lean:368]: I tried but don't yet see what to do here. Someone else has an idea?

Comment (eric-wieser) [reply Mathlib/Data/Nat/Bitwise.lean:368]: I mean something like
```
def ofBits {n : Nat} (f : Fin n → Bool) : Nat :=
  go f 0
  where
    /-- A helper method where `z` the starting point.
    Note that `ofBits.go f z = 2 ^ n * z + ofBits f i` which we prove next. -/
    go {n : Nat} (f : Fin n → Bool) (z : Nat) : Nat :=
    match n with
    | 0 => z
    | _ + 1 => go (f ∘ Fin.castSucc) (z.bit (f (.last _)))
```
I'll push something to that effect shortly.

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 46 above)
Comment (tobiasgrosser) [reply Mathlib/Data/Bitvec/Lemmas.lean:88]: I guess the reverse in the theorem name does not make sense anymore. I wonder if bits maybe returned the bits in the opposite order than toList?

File: Mathlib/Data/Nat/Bitwise.lean (hunk 45 above)
Comment (mhk119) [reply Mathlib/Data/Nat/Bitwise.lean]: What is the motivation behind defining it in terms of `Fin`? I originally defined it this way to avoid lists (which is equivalent to this new definition). This was mainly because our proofs of bit-blasting theorems all follow this strong induction format where we descend to smaller binary representations (removing elements is painful to do with lists).

Also, I'm trying to prove `testBit_ofBits` with this new definition (which was a simple 5-line strong inductive proof before) but I can't seem to generalize over `i` anymore. Issues like this make me favor the `Nat` definition over the `Fin` definition (dependent types are harder to work with). Am I missing something?

Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean]: In some sense, the `Fin` design is more precise, since it's now obvious that only the values of `f i` where `i < n` matter. The previous design required garbage values `f j` for all `j >= n`, and, like Eric mentioned, some congruence lemma stating that these garbage values don't influence the output.

That said,
> I'd expect this to be more convenient
So far, the proofs that were broken are considerable less convenient. 
I've tried to play around with different `Fin` recursion principles to regain the proofs as straightforward inductions, but have not gotten that to work.

@eric-wieser: What do you think of keeping the old `Nat -> Bool`-based version as a (private) implementation detail, and have the `Fin n -> Bool` version just wrap that one (by extending the function with canonical garbage values). That should be easily implemented over the previously working version.

Comment (tobiasgrosser) [reply Mathlib/Data/Nat/Bitwise.lean]: I like that idea.

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 46 above)
Comment (alexkeizer) [reply Mathlib/Data/Bitvec/Lemmas.lean:88]: Indeed, the old `toList` returned the bits in big-endian order (where the head of the list is the MSB), whereas `Nat.bits` returns bits in little-endian order (the head of the list is the LSB).

Comment (tobiasgrosser) [reply Mathlib/Data/Bitvec/Lemmas.lean:88]: Should we then drop the reverse from the theorem name?

File: Mathlib/Data/Bool/Basic.lean
Comment (eric-wieser) [inline Mathlib/Data/Bool/Basic.lean:1]: In the interest of slowly shrinking this PR (and saving you more expensive rebuilds), can you split the changes in this file to their own PR, which I'll merge quickly?

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 47]
```diff
@@ -1,173 +1,160 @@
...
+@[simp] lemma shiftLeft_eq (x : BitVec w) (n: Nat)      : BitVec.shiftLeft x n = x <<< n    := rfl
+@[simp] lemma ushiftRight_eq (x : BitVec w) (n: Nat)    : BitVec.ushiftRight x n = x >>> n  := rfl
+@[simp] lemma not_eq (x : BitVec w)                     : BitVec.not x = ~~~x               := rfl
+@[simp] lemma and_eq (x y : BitVec w)                   : BitVec.and x y = x &&& y          := rfl
+@[simp] lemma or_eq (x y : BitVec w)                    : BitVec.or x y = x ||| y           := rfl
+@[simp] lemma xor_eq (x y : BitVec w)                   : BitVec.xor x y = x ^^^ y          := rfl
+@[simp] lemma neg_eq (x : BitVec w)                     : BitVec.neg x = -x                 := rfl
+@[simp] lemma add_eq (x y : BitVec w)                   : BitVec.add x y = x + y            := rfl
+@[simp] lemma sub_eq (x y : BitVec w)                   : BitVec.sub x y = x - y            := rfl
+@[simp] lemma mul_eq (x y : BitVec w)                   : BitVec.mul x y = x * y            := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:32]: I think you could PR these ones straight to Std, since they're fundamentally about deciding what's the API and what's an implementation detail.

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 46 above)
Comment (alexkeizer) [reply Mathlib/Data/Bitvec/Lemmas.lean:88]: I think this theorem as it is currently stated is quite different from the original.
The current statement:
```lean
v.toNat = v.toNat.bits.foldr bit 0
```
is really a theorem about `Nat`s, not `BitVec`s.

The equivalent would be something akin to
```lean
v.toNat = v.toBEList.reverse.foldr (flip addLsb) 0
```
Although this should be equivalent to  
```lean
v.toNat = v.toBEList.foldl (flip addLsb) 0
```

I'm not sure why the original theorem used `reverse` and `foldr` over `foldl`

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 47 above)
Comment (alexkeizer) [reply Mathlib/Data/Bitvec/Lemmas.lean:32]: leanprover/std4#357

File: Mathlib/Data/Bool/Basic.lean
Comment (alexkeizer) [reply Mathlib/Data/Bool/Basic.lean:1]: Done, in #8328

**Comment by alexkeizer** [comment]
It seems this PR is mostly blocked on not wanting to lose existing results about bitvectors. Replicating all these results for `Std.BitVec` in a single PR is leading to a rather oversized PR, so I've opened #8345 with an alternative approach: just keep the existing `Bitvec` type and its result, and develop the `Std.BitVec` API in parallel.

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 46 above)
Comment (alexkeizer) [reply Mathlib/Data/Bitvec/Lemmas.lean:88]: An update on this: to prove `v.toNat = v.toBEList.foldl (flip addLsb) 0` cleanly, we really want to be able to do induction on a bitvector in terms of a `cons` or `concat` operation. Adding this in the current PR seems undesirable, since that would make the PR even larger.
So, instead I propose we change course, rather than replace the entire `Bitvec` API in one go, let's keep both `Bitvec` and `Std.BitVec` types while incrementally adding results to the latter. I've opened #8345 as a first step in that direction.

Comment (tobiasgrosser) [reply Mathlib/Data/Bitvec/Lemmas.lean:88]: I removed this lemma for now and replaced it with #noalign in this PR. We can then decide if we want to merge this PR with noalign or instead go for #8345.

**Comment by alexkeizer** [comment]
I've removed some new theorems from the `Nat.Bitwise` file which are not needed for the main `BitVec` contributions.
Since this PR does not depend on these removed results, I've not opened a PR for them, but I have saved them in a branch: mathlib4:textbit-lemmas

File: Mathlib/Data/Nat/Bitwise.lean [hunk 48]
```diff
@@ -338,6 +347,25 @@ theorem bitwise_comm {f : Bool → Bool → Bool} (hf : ∀ b b', f b b' = f b'
     _ = swap (bitwise f) := bitwise_swap
 #align nat.bitwise_comm Nat.bitwise_comm
 
+/-- If `x` and `y` fit within `n` bits, then the result of any (well-behaved) bitwise operation on
+    `x` and `y` also fits within `n` bits -/
+theorem bitwise_lt {f x y n} (hx : x < 2 ^ n) (hy: y < 2 ^ n) (h: f false false = false) :
+    bitwise f x y < 2 ^ n := by
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:353]: Is `h` needed here?

Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean:353]: Good catch, I think the result should still be true even without `h`.
That said, the current proof does rely on `h`.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 49]
```diff
@@ -338,6 +347,25 @@ theorem bitwise_comm {f : Bool → Bool → Bool} (hf : ∀ b b', f b b' = f b'
     _ = swap (bitwise f) := bitwise_swap
 #align nat.bitwise_comm Nat.bitwise_comm
 
+/-- If `x` and `y` fit within `n` bits, then the result of any (well-behaved) bitwise operation on
+    `x` and `y` also fits within `n` bits -/
+theorem bitwise_lt {f x y n} (hx : x < 2 ^ n) (hy: y < 2 ^ n) (h: f false false = false) :
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:352]:
```suggestion
theorem bitwise_lt {f x y n} (hx : x < 2 ^ n) (hy: y < 2 ^ n) (h : f false false = false) :
```

**Comment by tobiasgrosser** [comment]
I removed another round of likely unrelated changes to the Bitwise files.

File: Mathlib/Data/Bitvec/Defs.lean [hunk 50]
```diff
@@ -1,339 +1,143 @@
...
+def toLEList (x : BitVec w) : List Bool :=
+  List.ofFn x.getLsb'
 
-/-- Return the integer encoded by the input bitvector -/
-protected def toInt : ∀ {n : Nat}, Bitvec n → Int
-  | 0, _ => 0
-  | succ _, v =>
-    cond (head v) (Int.negSucc <| Bitvec.toNat <| Bitvec.not <| tail v)
-      (Int.ofNat <| Bitvec.toNat <| tail v)
-#align bitvec.to_int Bitvec.toInt
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:312]: Where did this go?

File: Mathlib/Data/Bitvec/Defs.lean [hunk 51]
```diff
@@ -1,339 +1,143 @@
...
+## Main definitions
 
--- mathport name: «expr ++ₜ »
-local infixl:65 "++ₜ" => Vector.append
+* `Std.BitVec.sgt`: Signed greater-than comparison of bitvectors
+* `Std.BitVec.sge`: Signed greater-equals comparison of bitvectors
+* `Std.BitVec.ugt`: Unsigned greater-than comparison of bitvectors
+* `Std.BitVec.uge`: Unsigned greater-equals comparison of bitvectors
+* `Std.BitVec.ofLEList`: Turn a little-endian list of Booleans into a bitvector
+* `Std.BitVec.ofBEList`: Turn a big-endian list of Booleans into a bitvector
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:27]: I don't see these below in the file.

File: Mathlib/Data/Bitvec/Defs.lean [hunk 52]
```diff
@@ -1,339 +1,143 @@
 /-
-Copyright (c) 2015 Joe Hendrix. All rights reserved.
+Copyright (c) 2023 Wojciech Nawrocki. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Joe Hendrix, Sebastian Ullrich
+Authors: Harun Khan, Alex Keizer, Abdalrhman M Mohamed
 -/
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:5]: Why does the copyright mention a non-author?

File: Mathlib/Data/Nat/Bitwise.lean (hunk 48 above)
Comment (eric-wieser) [reply Mathlib/Data/Nat/Bitwise.lean]: Fixed. I think the answer is always `binaryRec'`

File: Mathlib/Data/Bitvec/Defs.lean (hunk 52 above)
Comment (tobiasgrosser) [reply Mathlib/Data/Bitvec/Defs.lean:5]: This code is an import from @mhk119 and his collegues at Stanford. AFAIU Abdalrhman co-authored some of the pieces, but is just not involved in upstreaming. @mhk119, can you clarify?

File: Mathlib/Data/Bitvec/Defs.lean (hunk 51 above)
Comment (tobiasgrosser) [reply Mathlib/Data/Bitvec/Defs.lean]: These were referring functions that we decided to not upstream in the initial PR. They are now removed.

File: Mathlib/Data/Nat/Bitwise.lean (hunk 48 above)
Comment (tobiasgrosser) [reply Mathlib/Data/Nat/Bitwise.lean]: Thank you @eric-wieser. This is much appreciated.

File: Mathlib/Data/Bitvec/Defs.lean (hunk 52 above)
Comment (alexkeizer) [reply Mathlib/Data/Bitvec/Defs.lean:5]: I think Eric is referring to the fact that Wojciech Nawrocki is listed as the copyright-holder, but not as an author. I think that's because the original PR adapted code by Wojciech in a different project. However, I suspect that all of this person's code has now been upstreamed to Std, so the copyright attribution might no longer make sense for this PR in the current form

Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Defs.lean:5]: Yes, exactly; it's @Vtec234's mention in the copyright but not the authors that confuses me.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 53]
```diff
@@ -316,6 +319,12 @@ theorem testBit_two_pow (n m : ℕ) : testBit (2 ^ n) m = (n = m) := by
     simp [h]
 #align nat.test_bit_two_pow Nat.testBit_two_pow
 
+lemma and_two_pow {n i} : n &&& 2 ^ i = (n.testBit i).toNat * 2 ^ i := by
+  apply eq_of_testBit_eq; intro j
+  rw [mul_comm, testBit_land]
+  cases' h : n.testBit i <;> cases' (ne_or_eq i j) with h1 h1
+  <;> simp [testBit_two_pow_of_ne _, *] at * <;> assumption
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:326]: Just noting this is currently under review in another open PR, though I forget which one.

File: Mathlib/Data/Bitvec/Defs.lean (hunk 52 above)
Comment (tobiasgrosser) [reply Mathlib/Data/Bitvec/Defs.lean:5]: I see. So I guess we either add Wojciech to the authors or add somebody else to the copyright. @mhk119, what would you suggest?

File: Mathlib/Data/Nat/Bitwise.lean (hunk 53 above)
Comment (tobiasgrosser) [reply Mathlib/Data/Nat/Bitwise.lean:326]: It is under review in https://github.com/leanprover-community/mathlib4/pull/8558.

File: Mathlib/Data/Bitvec/Defs.lean [hunk 54]
```diff
@@ -1,339 +1,141 @@
...
-instance : Add (Bitvec n) :=
-  ⟨Bitvec.add⟩
+#align bitvec.uborrow Std.BitVec.ult
+#align bitvec.ult Std.BitVec.ult
 
-instance : Sub (Bitvec n) :=
-  ⟨Bitvec.sub⟩
+/-- Unsigned greater than for bitvectors. -/
+protected def ugt (x y : BitVec w) : Bool := BitVec.ult y x
+#align bitvec.ugt Std.BitVec.ugt
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Defs.lean:84]: What's the rationale for changing this and the declarations around it from `Prop` to `bool`? Can you add an explanation in the PR description?

File: Mathlib/Data/Bitvec/Defs.lean (hunk 52 above)
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Defs.lean:5]: Frankly I would just leave the original 2015 copyright and *maybe* add the three new authors. Given the file is mostly aligns, I don't think there's much to claim authorship of anyway.

Comment (tobiasgrosser) [reply Mathlib/Data/Bitvec/Defs.lean]: That is a good idea. I changed the headers accordingly.

File: Mathlib/Data/Bitvec/Defs.lean (hunk 54 above)
Comment (alexkeizer) [reply Mathlib/Data/Bitvec/Defs.lean:84]: The choice was made to be consistent with Std, I believe also with input from an earlier review by @ChrisHughes24. I've edited the PR description to clarify the motivation behind this change

File: Mathlib/Data/Bitvec/Defs.lean (hunk 52 above)
Comment (mhk119) [reply Mathlib/Data/Bitvec/Defs.lean]: Hi, sorry for the late reply. Daytime in the UK is nighttime in California :). Sure, @eric-wieser's suggestion sounds good. Thanks!

File: Mathlib/Data/Nat/Bitwise.lean (hunk 53 above)
Comment (tobiasgrosser) [reply Mathlib/Data/Nat/Bitwise.lean]: This has now been merged to master and this PR does not need to ad it.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 55]
```diff
@@ -341,6 +341,35 @@ theorem bitwise_comm {f : Bool → Bool → Bool} (hf : ∀ b b', f b b' = f b'
...
+      simp only [bitwise_zero_right]
+      split <;> assumption
+    | f «by» ny hny =>
+      rw [bitwise_bit' _ _ _ _ hnx hny]
+      cases n <;> simp_all
+
+lemma shiftLeft_lt {x n m : ℕ} (h : x < 2 ^ n) : x <<< m < 2 ^ (n + m) := by
+  simp only [pow_add, shiftLeft_eq, mul_lt_mul_right (two_pow_pos _), h]
+
+lemma append_lt {x y n m} (hx : x < 2 ^ n) (hy : y < 2 ^ m) : y <<< n ||| x < 2 ^ (n + m) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:368]: I think this could do with a docstring expaining that this expression happens to coincide with the implementation of `Std.BitVec.append`.

In the longer term, it would make sense to upstream this to avoid an unecessary modulo operation in `append`; but that's definitely out of scope here.

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 56]
```diff
@@ -1,173 +1,115 @@
...
-      cases head <;> decide
-    · rw [← left_distrib]
-      rw [mul_comm _ 2]
-      apply Nat.mul_le_mul_left
-      exact ih rfl
-#align bitvec.to_nat_lt Bitvec.toNat_lt
+  simp [addLsb, two_mul]; cases b <;> rfl
+#align bitvec.add_lsb_eq_twice_add_one Std.BitVec.addLsb_eq_twice_add_one
+
+#noalign bitvec.to_nat_eq_foldr_reverse
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:68]: Let's leave a breadcrumb
```suggestion
-- The previous statement was `(v : Bitvec n) : v.toNat = v.toList.reverse.foldr (flip addLsb) 0`.
-- Since the statement is awkward and `Std.BitVec` has no comparable API, we just drop it.
#noalign bitvec.to_nat_eq_foldr_reverse
```

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 57]
```diff
@@ -1,173 +1,115 @@
...
-    rw [← h]
-  clear h
-  simp only [List.foldl_append, List.foldl_cons, List.foldl_nil]
-  induction' xs with x xs xs_ih generalizing x
-  · simp
-    unfold addLsb
-    simp [Nat.mul_succ]
-  · simp
-    apply xs_ih
-#align bitvec.to_nat_append Bitvec.toNat_append
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:53]: This align seems to have gone; I think it's a `noalign` since it's a very different statement to the new one, unless you want to implement `toNat_concat` (did `concat` land in Std?)

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 58]
```diff
@@ -1,173 +1,115 @@
...
+  rw [toNat_ofNat (Nat.add_comm w v ▸ append_lt hl hm)]
+
+#noalign bitvec.bits_to_nat_to_bool
+#align bitvec.to_nat_of_nat Std.BitVec.toNat_ofNat
+
+@[simp]
+lemma extractLsb_eq {w : ℕ} (hi lo : ℕ) (a : BitVec w) :
+    extractLsb hi lo a = extractLsb' lo (hi - lo + 1) a :=
   rfl
-#align bitvec.of_nat_succ Bitvec.ofNat_succ
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:68]: This should be a `noalign`

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 46 above)
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Lemmas.lean:88]: I think merging with noaligns is fine

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 58 above)
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Lemmas.lean:68]: (or should be reinstated with `cons` / `concat`)

File: Mathlib/Data/Nat/Bitwise.lean (hunk 55 above)
Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean:368]: This has been resolved in #8598

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 57 above)
Comment (alexkeizer) [reply Mathlib/Data/Bitvec/Lemmas.lean:53]: `concat` did land in Std, but I don't think it's particularly useful to implement `toNat_concat`, let's just go with `noalign`

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 58 above)
Comment (alexkeizer) [reply Mathlib/Data/Bitvec/Lemmas.lean:68]: I went with `noalign`, leaving a comment with what the statement in terms of `concat` would be

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 59]
```diff
@@ -1,173 +1,124 @@
...
+#noalign toNat_append
+
+variable {w v : Nat}
+
+theorem toNat_inj {x y : BitVec w} : x.toNat = y.toNat ↔ x = y :=
+  ⟨(match x, y, · with | ⟨_, _⟩,⟨_, _⟩, rfl => rfl), (· ▸ rfl)⟩
+
+/-- `x < y` as natural numbers if and only if `x < y` as `BitVec w`. -/
+theorem toNat_lt_toNat {x y : BitVec w} : x.toNat < y.toNat ↔ x < y :=
+  ⟨id, id⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:29]:
```suggestion
  Iff.rfl
```

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 60]
```diff
@@ -1,173 +1,124 @@
...
-#align bitvec.bits_to_nat_to_bool Bitvec.bits_toNat_decide
-
-theorem ofNat_succ {k n : ℕ} :
-    Bitvec.ofNat k.succ n = Bitvec.ofNat k (n / 2)++ₜdecide (n % 2 = 1) ::ᵥ Vector.nil :=
+#noalign bits_to_nat_to_list
+#noalign toNat_append
+
+variable {w v : Nat}
+
+theorem toNat_inj {x y : BitVec w} : x.toNat = y.toNat ↔ x = y :=
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:24]: Can you prove the statement with `Injective`, then prove this with `.eq_iff`?

Comment (tobiasgrosser) [reply Mathlib/Data/Bitvec/Lemmas.lean]: I gave this a shot. (Btw, thank you for helping on zulip).

I guess my proof likely can be golfed and I am also unsure if the statement using `@` is sensible.

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 61]
```diff
@@ -21,8 +21,17 @@ open Nat
 
 variable {w v : Nat}
 
-theorem toNat_inj {x y : BitVec w} : x.toNat = y.toNat ↔ x = y :=
-  ⟨(match x, y, · with | ⟨_, _⟩,⟨_, _⟩, rfl => rfl), (· ▸ rfl)⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean]: You could have just kept the first half of this proof :)

**Comment by tobiasgrosser** [comment]
I updated master. There are no no changes to Nat/Bitwise as the last ones were merged in #8598.

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 62]
```diff
@@ -1,173 +1,131 @@
...
-#align bitvec.bits_to_nat_to_bool Bitvec.bits_toNat_decide
-
-theorem ofNat_succ {k n : ℕ} :
-    Bitvec.ofNat k.succ n = Bitvec.ofNat k (n / 2)++ₜdecide (n % 2 = 1) ::ᵥ Vector.nil :=
+#noalign bits_to_nat_to_list
+#noalign toNat_append
+
+variable {w v : Nat}
+
+theorem toNat_inj {n : Nat}: Function.Injective (@Std.BitVec.toNat n) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:24]: I think my comment earlier got lost to GitHub; you should be able to prove this with a substring of the old proof (in one line), rename it to `toNat_injective`, then prove the previous `toNat_inj` in terms of the `Injective` statement as we do elsewhere in mathlib.

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 61 above)
Comment (tobiasgrosser) [reply Mathlib/Data/Bitvec/Lemmas.lean]: I gave it another shot, but I am afraid it is not yet minimal. Advice is much appreciated, otherwise we will try to reduce it further on Monday.

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 63]
```diff
@@ -21,15 +21,10 @@ open Nat
 
 variable {w v : Nat}
 
-theorem toNat_inj {n : Nat}: Function.Injective (@Std.BitVec.toNat n) := by
+theorem toNat_injective {n : Nat}: Function.Injective (@Std.BitVec.toNat n) := by
   unfold BitVec.toNat Function.Injective toFin
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:25]: I think you can drop this line entirely

Comment (tobiasgrosser) [reply Mathlib/Data/Bitvec/Lemmas.lean]: Alex helped clean this up

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 62 above)
Comment (tobiasgrosser) [reply Mathlib/Data/Bitvec/Lemmas.lean]: Alex helped to clean this up.

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 64]
```diff
@@ -21,10 +21,11 @@ open Nat
...
 variable {w v : Nat}
 
-theorem toNat_injective {n : Nat}: Function.Injective (@Std.BitVec.toNat n) := by
-  unfold BitVec.toNat Function.Injective toFin
-  intros x y
-  exact (match x, y, · with | ⟨_, _⟩,⟨_, _⟩, rfl => rfl)
+theorem toNat_injective {n : Nat}: Function.Injective (@Std.BitVec.toNat n)
+  | ⟨_, _⟩, ⟨_, _⟩, rfl => rfl
+
+theorem toNat_inj {x y : BitVec w} : x.toNat = y.toNat → x = y :=
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:27]:
```suggestion
theorem toNat_inj {x y : BitVec w} : x.toNat = y.toNat ↔ x = y :=
```

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 65]
```diff
@@ -21,10 +21,11 @@ open Nat
...
+  @toNat_injective w x y
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:28]:
```suggestion
  toNat_injective.eq_iff
```

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 66]
```diff
@@ -21,10 +21,11 @@ open Nat
 
 variable {w v : Nat}
 
-theorem toNat_injective {n : Nat}: Function.Injective (@Std.BitVec.toNat n) := by
-  unfold BitVec.toNat Function.Injective toFin
-  intros x y
-  exact (match x, y, · with | ⟨_, _⟩,⟨_, _⟩, rfl => rfl)
+theorem toNat_injective {n : Nat}: Function.Injective (@Std.BitVec.toNat n)
+  | ⟨_, _⟩, ⟨_, _⟩, rfl => rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:25]: Nice!

Comment (tobiasgrosser) [reply Mathlib/Data/Bitvec/Lemmas.lean:25]: Indeed. 👍

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 60 above)
Comment (tobiasgrosser) [reply Mathlib/Data/Bitvec/Lemmas.lean:27]: This has now be golved.

**Comment by eric-wieser** [comment]
bors merge

This looks good to go now; thanks for splitting out all the other smaller PRs to make this a manageable size!

**Comment by tobiasgrosser** [comment]
Thank you all, indeed!

**Comment by mhk119** [comment]
Thanks everyone for your hard work! This is amazing.

**Comment by linesthatinterlace** [comment]
Congratulations!
